US07049310B2
b) 6-Fluoro-1-methyl-1H-indole-3-carboxaldehyde
According to the procedure of Preparation 9 (a), except substituting 6-fluoro-1H-indole-3-carboxaldehyde (0.3 g, 1.8 mmole) for the ethyl indole-2-carboxylate, the title compound (0.3 g, 94%) was prepared as a viscous oil: MS (ES) m/e 178 (M+H)+.

reactant | 6-fluoro-1H-indole-3-carboxaldehyde | 1.8 mmole, 0.3 g | FC1=CC=C2C(=CNC2=C1)C=O | C9H6FNO
reactant | ethyl indole-2-carboxylate | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
product | 6-Fluoro-1-methyl-1H-indole-3-carboxaldehyde | 0.3 g, 94% | FC1=CC=C2C(=CN(C2=C1)C)C=O | C10H8FNO
